US07777047B2
5-(2-methoxyethoxy)-7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylic acid
Ethyl 5-(2-methoxyethoxy)-7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylate (2.8 g) was dissolved in a mixed solvent of tetrahydrofuran (12 mL) and ethanol (12 mL), 1N aqueous sodium hydroxide solution (12 mL) was added, and the mixture was stirred at 60° C. for 1.5 hr. The reaction solution was acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over magnesium sulfate, and filtrated, and the filtrate was concentrated under reduced pressure. The obtained crude product was recrystallized from ethyl acetate-hexane to give the title compound (2.5 g, yield 95%) as a white solid. melting point 174-175° C.

reactant | Ethyl 5-(2-methoxyethoxy)-7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylate | 2.8 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1N(C=CN1)C)C)C(=O)OCC | C19H24N4O6S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 12 mL | [OH-].[Na+]
product | 5-(2-methoxyethoxy)-7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 2.5 g, yield 95% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1N(C=CN1)C)C)C(=O)O | C17H20N4O6S
